### PR TITLE
[Merged by Bors] - feat: new class `InnerRegular` of measures

### PR DESCRIPTION
**Pull request by sgouezel**
Towards general uniqueness results for the Haar measure, we introduce a new class of regular measures called `InnerRegular`, for measures which are inner regular with respect to compact sets. We also introduce `InnerRegularWRT` for more general classes of inner regular measures with properties to be prescribed, and `InnerRegularCompactLTTop` for measures which are regular for finite measure sets with respect to compact sets -- the latter property is the common denominator to the two main classes of Haar measures, the regular ones and the inner regular ones.

---

I am afraid this PR will be pretty hard to review, as it is a substantial rewrite of the `Regular.lean`, with a lot of different properties of measures, and proofs that jump from one to the other. I have tried to explain the details of the design in the file-level docstring to help the reader. The API is pretty well fleshed out, as it is enough for all the forthcoming results on Haar measures in #8198. Unfortunately, I can't really carve out smaller PRs off this one.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/MeasureTheory/Measure/Regular.lean [hunk 1]
```diff
@@ -13,42 +14,77 @@ import Mathlib.MeasureTheory.Constructions.BorelSpace.Basic
...
-In order to avoid code duplication, we also define a measure `μ` to be `InnerRegular` for sets
+A measure is `Regular` if it satisfies the following properties:
+* it is finite on compact sets;
+* it is outer regular;
+* it is inner regular for open sets with respect to compacts closed sets: the measure of any open
+  set `U` is the supremum of `μ K` over all compact sets `K` contained in `U`.
+
+A measure is `InnerRegular` if it is inner regular for measurable sets with respect to compact
+closed sets: the measure of any measurable set `s` is the supremum of `μ K` over all compact
+sets contained in `s`.
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/Measure/Regular.lean:30]: This docstring mentions compact closed sets, but the definition of InnerRegular is only about compact sets (not necessarily closed). I am curious about this because in the proof of Kolmogorov's extension theorem, we realized with Peter Pfaffelhuber that if we did not want to make assumptions like T2space, what we needed was regularity with respect to compact and closed sets (we obtain these compact closed sets as closures of compact sets).
Related to that, you also recently added `ClosableCompactSubsetOpenSpace` and it looks like the intended use of your new definitions in our case would be to use InnerRegular as you define it w.r.t. compact sets (not necessarily closed), then prove that the assumptions we have on our space imply `ClosableCompactSubsetOpenSpace` and use `exists_compact_closed_between`. Does that sound right?

Comment (sgouezel) [reply Mathlib/MeasureTheory/Measure/Regular.lean:30]: It's exactly that. The natural inner regularity assumption would be with respect to compact closed sets, and I started a refactor like that, but then I thought it would be too big a departure from existing literature, so I switched back only to compact sets (and forgot to adjust the docstring here). In the main application, to locally compact topological groups, it doesn't make a difference, because the topology is then automatically regular: this implies `ClosableCompactSubsetOpenSpace`, so regularity with respect to compact sets, or with respect to compact closed sets, is equivalent.

Comment (RemyDegenne) [reply Mathlib/MeasureTheory/Measure/Regular.lean]: Thanks for the clarification. I was also thinking about trying a closed-and-compact refactor for inner regular, but it was a daunting prospect. I'll review this pr to understand better how the various definitions you introduce interact.

File: Mathlib/MeasureTheory/Measure/Regular.lean [hunk 2]
```diff
@@ -604,53 +884,143 @@ theorem _root_.MeasurableSet.measure_eq_iSup_isClosed_of_ne_top [WeaklyRegular 
...
 
 -- see Note [lower instance priority]
-/-- Any locally finite measure on a second countable metric space (or even a pseudo emetric space)
-is weakly regular. -/
-instance (priority := 100) of_pseudoEMetric_secondCountable_of_locallyFinite {X : Type*}
-    [PseudoEMetricSpace X] [SecondCountableTopology X] [MeasurableSpace X]
+/-- Any locally finite measure on a second countable metrizable space
+(or even a pseudo metrizable space) is weakly regular. -/
+instance (priority := 100) of_pseudoMetrizableSpace_secondCountable_of_locallyFinite {X : Type*}
+    [TopologicalSpace X] [PseudoMetrizableSpace X] [SecondCountableTopology X] [MeasurableSpace X]
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/Measure/Regular.lean:910]: You lost the E of PseudoEMetricSpace here as well.

**Review by RemyDegenne — COMMENTED** [review]
It looks good!

File: Mathlib/MeasureTheory/Measure/Regular.lean [hunk 3]
```diff
@@ -432,22 +528,40 @@ theorem weaklyRegular_of_finite [BorelSpace α] (μ : Measure α) [IsFiniteMeasu
...
+  rcases h n hF _ hn with ⟨K, KF, hKp, hK⟩
+  refine ⟨K, KF, hKp, hK.trans_le (restrict_apply_le _ _)⟩
 
-/-- In a metric space (or even a pseudo emetric space), an open set can be approximated from inside
-by closed sets. -/
-theorem of_pseudoEMetricSpace {X : Type*} [PseudoEMetricSpace X] [MeasurableSpace X]
-    (μ : Measure X) : InnerRegular μ IsClosed IsOpen := by
+/-- In a metrizable space (or even a pseudo metrizable space), an open set can be approximated from
+inside by closed sets. -/
+theorem of_pseudoMetrizableSpace {X : Type*} [TopologicalSpace X] [PseudoMetrizableSpace X]
```
[the remark this answers is not in the document]
Comment (RemyDegenne) [reply Mathlib/MeasureTheory/Measure/Regular.lean:552]: Forget about that: a PseudoEMetricSpace is a PseudoMetrizableSpace so you lost nothing.

File: Mathlib/MeasureTheory/Measure/Regular.lean [hunk 4]
```diff
@@ -141,57 +193,71 @@ of measure greater than `r`.
...
+    InnerRegularWRT μ p q' := by
   intro U hU r hr
   rcases H' hU r hr with ⟨F, hFU, hqF, hF⟩; rcases H hqF _ hF with ⟨K, hKF, hpK, hrK⟩
   exact ⟨K, hKF.trans hFU, hpK, hrK⟩
-#align measure_theory.measure.inner_regular.trans MeasureTheory.Measure.InnerRegular.trans
+#align measure_theory.measure.inner_regular.trans MeasureTheory.Measure.InnerRegularWRT.trans
 
-end InnerRegular
+theorem of_imp (h : ∀ (s : Set α), q s → p s) : InnerRegularWRT μ p q :=
+  fun U hU _ hr ↦ ⟨U, Subset.rfl, h U hU, hr⟩
```
[the remark this answers is not in the document]
Comment (sgouezel) [reply Mathlib/MeasureTheory/Measure/Regular.lean]: Good idea, done.

**Comment by RemyDegenne** [comment]
Thanks!
bors r+
